US06949579B2
The process is performed as in Example 75, starting with 500 mg of 2-chloro-N-(6-chloro-1H-indazol-3-yl)acetamide, 15 cm3 of acetonitrile and 0.7 cm3 of cyclohexylamine. The reaction medium is refluxed for 2 hours and then concentrated to dryness under reduced pressure (2 kPa; 50° C.); the crude product obtained is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with a methylene chloride/methanol/aqueous ammonia mixture (97/2.5/0.25 by volume). The fractions containing the expected product are combined and the residue is taken up in 20 cm3 of diisopropyl ether, filtered off and dried under reduced pressure (90 Pa; 45° C.) to give 492 mg of N-(6-chloro-1H-indazol-3-yl)-2-(cyclohexylamino)acetamide in the form of a white powder melting at 170° C.

reactant | 2-chloro-N-(6-chloro-1H-indazol-3-yl)acetamide | 500 mg | ClCC(=O)NC1=NNC2=CC(=CC=C12)Cl | C9H7Cl2N3O
reactant | cyclohexylamine | 0.7 cm3 | C1(CCCCC1)N | C6H13N
solvent | acetonitrile | 15 cm3 | C(C)#N | C2H3N
product | N-(6-chloro-1H-indazol-3-yl)-2-(cyclohexylamino)acetamide | 492 mg | ClC1=CC=C2C(=NNC2=C1)NC(CNC1CCCCC1)=O | C15H19ClN4O
